**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Aluminum Polymer Capacitors
* Matchcode:             WCAP-PHGP
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/1/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt PHGP_875015019003_180uF 1 2
Rser 1 3 0.00534993628881
Lser 2 4 0.0000000012
C1 3 4 0.00018
Rpar 3 4 55555.5555555556
.ends PHGP_875015019003_180uF
*******
.subckt PHGP_875015019004_220uF 1 2
Rser 1 3 0.0044905266666
Lser 2 4 0.000000000545
C1 3 4 0.00022
Rpar 3 4 45454.5454545455
.ends PHGP_875015019004_220uF
*******
.subckt PHGP_875015019005_330uF 1 2
Rser 1 3 0.00808821140644
Lser 2 4 0.00000000048
C1 3 4 0.00033
Rpar 3 4 30303.0303030303
.ends PHGP_875015019005_330uF
*******
.subckt PHGP_875015119003_100uF 1 2
Rser 1 3 0.00544389295976
Lser 2 4 0.000000000575
C1 3 4 0.0001
Rpar 3 4 100000
.ends PHGP_875015119003_100uF
*******
.subckt PHGP_875015119004_150uF 1 2
Rser 1 3 0.00451803569867
Lser 2 4 0.0000000005
C1 3 4 0.00015
Rpar 3 4 66666.6666666667
.ends PHGP_875015119004_150uF
*******
.subckt PHGP_875015119005_180uF 1 2
Rser 1 3 0.00476965504304
Lser 2 4 0.000000000425
C1 3 4 0.00018
Rpar 3 4 55555.5555555556
.ends PHGP_875015119005_180uF
*******
.subckt PHGP_875015119006_220uF 1 2
Rser 1 3 0.00519652304711
Lser 2 4 0.0000000006
C1 3 4 0.00022
Rpar 3 4 45454.5454545455
.ends PHGP_875015119006_220uF
*******
.subckt PHGP_875016219004_330uF 1 2
Rser 1 3 0.00689300236334
Lser 2 4 0.00000000044
C1 3 4 0.00033
Rpar 3 4 30303.0303030303
.ends PHGP_875016219004_330uF
*******
.subckt PHGP_875016219005_390uF 1 2
Rser 1 3 0.00517373267178
Lser 2 4 5.08803192E-10
C1 3 4 0.00039
Rpar 3 4 25641.0256410256
.ends PHGP_875016219005_390uF
*******
.subckt PHGP_875016219006_470uF 1 2
Rser 1 3 0.00497652069957
Lser 2 4 0.00000000058
C1 3 4 0.00047
Rpar 3 4 21276.5957446809
.ends PHGP_875016219006_470uF
*******
.subckt PHGP_875016219007_560uF 1 2
Rser 1 3 0.00669974266241
Lser 2 4 0.00000000073
C1 3 4 0.00056
Rpar 3 4 17857.1428571429
.ends PHGP_875016219007_560uF
*******
.subckt PHGP_875016319002_330uF 1 2
Rser 1 3 0.005260879213
Lser 2 4 0.000000000575
C1 3 4 0.00033
Rpar 3 4 30303.0303030303
.ends PHGP_875016319002_330uF
*******
.subckt PHGP_875016319003_390uF 1 2
Rser 1 3 0.00315811123771
Lser 2 4 0.00000000049
C1 3 4 0.00039
Rpar 3 4 25641.0256410256
.ends PHGP_875016319003_390uF
*******
.subckt PHGP_875016319004_470uF 1 2
Rser 1 3 0.00723578300993
Lser 2 4 6.25918207E-10
C1 3 4 0.00047
Rpar 3 4 21276.5957446809
.ends PHGP_875016319004_470uF
*******
